US04053312
A. 8-Hexadecanesulfonamido-2-naphthol
A solution of 51.4 g (0.33 mole) 8-amino-2-naphthol in 500 ml pyridine was cooled to 0° and treated with 108.0 g (0.33 mole) hexadecanesulfonyl chloride. The mixture was stirred briefly at 0° C. and overnight at room temperature, then poured into ice water containing 500 ml concentrated hydrochloric acid. The solid was collected, washed, dried, and recrystallized from benzene to give 100 g of product, m.p. 103.5°-107° C.

reactant | 8-amino-2-naphthol | 0.33 mole, 51.4 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | hexadecanesulfonyl chloride | 0.33 mole, 108.0 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)Cl | C16H33ClO2S
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 8-Hexadecanesulfonamido-2-naphthol | 100 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)NC=1C=CC=C2C=CC(=CC12)O | C26H41NO3S
